Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Admit for Chemotherapy.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo female with a history of synovial sarcoma who is admitted
for week 5 scheduled radiation and chemotherapy with 
doxorubicin. She completed week 4 on ___ states she is 
doing
well since prior admission for chemo, and has adjusted her home
oxycontin to feel more alert, taking 20mg in the AM, 20mg in the
afternoon and 20mg in the evenings. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Left Shoulder Synovial Sarcoma
- ___ Increase right shoulder pain and swelling
- ___ Ultrasound showed a large ill-defined masslike
structure in the left shoulder/upper arm without evidence of 
deep
vein thrombosis.
- ___ MRI showed a heterogeneously enhancing soft tissue mass
measuring 11.9 x 10.7 x 9.8 cm seen circumferentially around the
left humeral head, neck, and proximal shaft. There was extension
of mass into the axilla and multiple surrounding muscles. There
was associated abnormal marrow signal in the proximal humerus.
- ___ Ultrasound guided core needle biopsy
- ___ Bone Scan trace uptake in the left humeral head 
without
other abnormality.
- ___ CT Chest on the same date showed several non-specific
lung nodules all measuring less than ___s increased
number and size of left axillary lymph nodes.
- Screening mammogram that showed a 3 mm left
breast lesion.
- ___ Week 1 Doxorubicin and Radiation
- ___ Week 2 Doxorubicin and Radiation
- ___ completed week 4 doxorubicin/RT
PAST MEDICAL HISTORY:
-Hyperlipidemia.
-Arthritis.
-Left humerus fracture ___.
-s/p Left total hip replacement ___ ___.
-s/p Right ACL repair ___.
-s/p C-sections x2 in ___ and ___.
 
Social History:
___
Family History:
Mother - Lung cancer (smoker), stroke, hypertension, depression,
alcohol abuse.
Father - Lung cancer (smoker), hypertension, gout.
 
Physical Exam:
VITAL SIGNS: 98.1  100/52  78  18  96%RA
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2
PULM:  CTAB
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  LUE edema and tenderness to palpation with decreased
range of motion due to pain. Entire left shoulder joint appears
swollen but stable compared to prior and per pt much decreased
compared to prior to initating chemotherapy. No ___ edema. Distal
strength/pulses/perfusion intact.
SKIN:  No rashes or skin breakdown. R chest port healing well
with no erythema or drainage.
NEURO: Alert and oriented, no focal deficits.
 
Pertinent Results:
___ 06:16AM BLOOD WBC-5.2 RBC-3.35* Hgb-10.3* Hct-31.7* 
MCV-95 MCH-30.7 MCHC-32.5 RDW-16.9* RDWSD-56.8* Plt ___
___ 06:16AM BLOOD UreaN-8 Creat-0.6 Na-137 K-3.8 Cl-101 
HCO3-25 AnGap-15
___ 06:16AM BLOOD ALT-6 AST-9 AlkPhos-66 TotBili-0.3
___ 06:24AM BLOOD Calcium-9.1 Phos-3.___ yo female with a history of synovial sarcoma who was admitted 
for week 5 scheduled radiation and chemotherapy with 
doxorubicin.

Synovial Sarcoma
- Completed scheduled chemotherapy week 5 with doxorubicin with 
concurrent radiation with no complications. She will follow up 
with surgery and her primary oncologist as an outpatient. Her 
home oxycontin dose was decreased during this admission as she 
no longer needed the higher dose.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q8H:PRN pain, headache 
2. Capsaicin 0.025% 1 Appl TP QID:PRN elbow pain 
3. Cepacol (Sore Throat Lozenge) 1 LOZ PO Q2H:PRN Sore Throat 
4. Docusate Sodium 200 mg PO BID 
5. Lidocaine 5% Patch 2 PTCH TD DAILY:PRN elbow or arm pain 
6. LORazepam 0.5 mg PO Q8H:PRN nausea, vomiting 
7. Nystatin Oral Suspension 5 mL PO QID:PRN mouth pain 
8. Ondansetron 8 mg PO Q8H:PRN nausea 
9. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
10. OxyCODONE SR (OxyconTIN) 30 mg PO QHS 
11. OxyCODONE SR (OxyconTIN) 20 mg PO QAM 
12. OxyCODONE SR (OxyconTIN) 20 mg PO LUNCH 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Prochlorperazine 10 mg PO Q6H:PRN nausea 
15. Senna 17.2 mg PO BID 

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q8H:PRN pain, headache 
2. Docusate Sodium 200 mg PO BID 
RX *docusate sodium [Colace] 100 mg 2 capsule(s) by mouth twice 
a day Disp #*120 Capsule Refills:*0
3. Lidocaine 5% Patch 2 PTCH TD DAILY:PRN elbow or arm pain 
4. LORazepam 0.5 mg PO Q8H:PRN nausea, vomiting 
RX *lorazepam 0.5 mg 1 tablet by mouth every 8 hours as needed 
Disp #*40 Tablet Refills:*0
5. Nystatin Oral Suspension 5 mL PO QID:PRN mouth pain 
RX *nystatin 100,000 unit/mL 5 mL by mouth QID prn Refills:*0
6. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours as 
needed Disp #*90 Tablet Refills:*0
7. OxyCODONE SR (OxyconTIN) 20 mg PO Q8H 
RX *oxycodone 20 mg 1 tablet(s) by mouth three times a day Disp 
#*60 Tablet Refills:*0
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Prochlorperazine 10 mg PO Q6H:PRN nausea 
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth every 6 
hours as needed Disp #*45 Tablet Refills:*0
10. Senna 17.2 mg PO BID 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth twice a day 
Disp #*120 Tablet Refills:*0
11. Capsaicin 0.025% 1 Appl TP QID:PRN elbow pain 
12. Cepacol (Sore Throat Lozenge) 1 LOZ PO Q2H:PRN Sore Throat 
13. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every 8 hours as 
needed Disp #*24 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sarcoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for chemotherapy and radiation which you 
tolerated well.
 
Followup Instructions:
___